US05811439
The same procedures used in Example 1 were repeated except for using 870 mg of indole-3-carbaldehyde and 2-fluorobenzyl bromide in place of the benzyl bromide used in Example 1 to give 1.46 g of 1-(2-fluorobenzyl)indole-3-carbaldehyde as yellowish brown crystals. The yield thereof was found to be 96%.

reactant | indole-3-carbaldehyde | 870 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 2-fluorobenzyl bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
product | 1-(2-fluorobenzyl)indole-3-carbaldehyde | 1.46 g | FC1=C(CN2C=C(C3=CC=CC=C23)C=O)C=CC=C1 | C16H12FNO
